US05589361
Recombinant t-PA (1 mg/ml in 0.2M arginine phosphate buffer, pH 6) was cooled in an ice bath. Sodium periodate was added to a concentration of 10 mM and the mixture was kept in the dark for 1 hour at 4° C. Glycerol (100 mM) and ethanolamine (50 mM) were added to quench the reaction. The sample was then dialyzed exhaustively against pH 6 arginine phosphate buffer, filtered through a 0.22 micron filter (Millipore) and stored at 4° C. Sodium periodate causes oxidation of carbohydrate residues that contain vicinal hydroxyl groups. The N-linked oligosaccharides at all three glycosylation sites of rt-PA contain residues susceptible to periodate oxidation. The neutral and amino sugar compositions of rt-PA and periodate-treated rt-PA are shown in Table 2. As expected, the fucose were completely destroyed by the action of periodate. The drop in mannose content was consistent with the destruction of the terminal residues of the high-mannose oligosaccharide at position 117 and the 2-linked residues of the complex oligosaccharides at positions 184 and 448. Some decrease in galactose levels was also observed, presumably as a result of oxidation of terminal galactose moieties (i.e., those not substituted with sialic acid).

reactant | Sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | Glycerol | 100 mM | OCC(O)CO | C3H8O3
reactant | ethanolamine | 50 mM | C(O)CN | C2H7NO
reactant | arginine phosphate | 0.2M | P(=O)(O)(O)O.N[C@@H](CCCNC(N)=N)C(=O)O
product | galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
